US05134146
a) 1-t-Butyloxycarbonyl-3-(3-amino-1,2,4-oxadiazol-5-yl)-1,2,5,6-tetrahydropyridine
The title compound (1.72 g, 16%) was prepared from hydroxyguanidine hemisulphate hemihydrate (55.90 g, 0.42 mol) and methyl 1-t-butyloxycarbonyl-1,2,5,6-tetrahydropyridine-3-carboxylate (10.0 g, 0.041 mol). Mass Spectrum, m/z 266 for M+.

reactant | hydroxyguanidine hemisulphate hemihydrate | 0.42 mol, 55.90 g | O.S(=O)(=O)(O)O.ONC(=N)N.ONC(=N)N
reactant | methyl 1-t-butyloxycarbonyl-1,2,5,6-tetrahydropyridine-3-carboxylate | 0.041 mol, 10.0 g | C(C)(C)(C)OC(=O)N1CC(=CCC1)C(=O)OC | C12H19NO4
product | 1-t-Butyloxycarbonyl-3-(3-amino-1,2,4-oxadiazol-5-yl)-1,2,5,6-tetrahydropyridine | 1.72 g, 16% | C(C)(C)(C)OC(=O)N1CC(=CCC1)C1=NC(=NO1)N | C12H18N4O3
